US07288537B2
A solution of (1-Benzhydryl-azetidin-3-yl)-(4-chloro-phenyl)-methanone (19.8 g, 54.8 mmol) in dichloromethane (250 ml), cooled to −4° C., is treated with 1-chloroethylchloroformate (8.0 ml, 73.8 mmol) and allowed to warm to ambient temperature. The reaction mixture is stirred for 18 hours and then evaporated. The residue is dissolved in methanol (220 ml) and stirred at ambient temperature for 3.5 hours. The methanol solution is concentrated and the product precipitated by addition of diethylether. The precipitate is collected by filtration and dries under high vacuum to afford Azetidin-3-yl-(4-chloro-phenyl)-methanone hydrochloride. [MH]+ 195.95.

reactant | (1-Benzhydryl-azetidin-3-yl)-(4-chloro-phenyl)-methanone | 54.8 mmol, 19.8 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)C(=O)C1=CC=C(C=C1)Cl | C23H20ClNO
reactant | 1-chloroethylchloroformate | 73.8 mmol, 8.0 ml | ClC(C)OC(=O)Cl | C3H4Cl2O2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | Azetidin-3-yl-(4-chloro-phenyl)-methanone hydrochloride | Cl.N1CC(C1)C(=O)C1=CC=C(C=C1)Cl | InChI=1S/C10H10ClNO.ClH/c11-9-3-1-7(2-4-9)10(13)8-5-12-6-8;/h1-4,8,12H,5-6H2;1H
